US07790728B2
5-Chloro-2-(3-fluoropyridin-4-yl)-3-pyridin-3-ylpyrazine
A suspension of 5-(3-fluoropyridin-4-yl)-6-pyridin-3-ylpyrazin-2(1H)-one (0.79 g, 2.95 mmol) in phosphorus oxychloride (5 mL) was heated to reflux and stirred overnight. The mixture was evaporated and carefully neutralised with 4% aqueous sodium hydrogen carbonate solution with external cooling. The mixture was extracted with ethyl acetate and the organic layer was washed with brine, dried (MgSO4) and evaporated. The residue was purified by silica gel chromatography (CH2Cl2 to CH2Cl2/MeOH 98:2) to give the title compound (0.279 g, 33%) as an off-white solid.

reactant | 5-(3-fluoropyridin-4-yl)-6-pyridin-3-ylpyrazin-2(1H)-one | 2.95 mmol, 0.79 g | FC=1C=NC=CC1C=1N=CC(NC1C=1C=NC=CC1)=O | C14H9FN4O
reactant | phosphorus oxychloride | 5 mL | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 5-Chloro-2-(3-fluoropyridin-4-yl)-3-pyridin-3-ylpyrazine | 0.279 g, 33% | ClC=1N=C(C(=NC1)C1=C(C=NC=C1)F)C=1C=NC=CC1 | C14H8ClFN4
